US04820834
1,3-Dihydro-5-phenyl-3(RS)-(3-trifluoromethylthiobenzoylamino)-2H-1,4-benzodiazepin-2-one
3(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (80.0 mg, 0.318 mmole), 3-trifluoromethylthiobenzoic acid (70.7 mg, 0.318 mmole), HBT (43.0 mg, 0.318 mmole) and EDC(61.0 mg, 0.318 mmole) were combined in dry DMF (2 ml) and stirred at room temperature. The pH of the mixture was adjusted to 9.0-9.5 with triethylamine (64.4 mg, 0.636 mmole) and the mixture stirred for 10 minutes. The DMF was removed in vacuo, and the residue was treated with 10% citric acid and extracted with EtOAc. The combined organic fractions were washed with sodium carbonate solution, dried over Na2SO4, filtered, and evaporated to dryness in vacuo. The residue was crystallized from EtOAc to give the title compound which was dried in vacuo at 100° C.: (m.p. 230°-232° C.).

reactant | 3(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.318 mmole, 80.0 mg | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H13N3O
reactant | 3-trifluoromethylthiobenzoic acid | 0.318 mmole, 70.7 mg | FC(C=1C=C(C(=S)O)C=CC1)(F)F | C8H5F3OS
reactant | EDC | 0.318 mmole, 61.0 mg
reactant | triethylamine | 0.636 mmole, 64.4 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1,3-Dihydro-5-phenyl-3(RS)-(3-trifluoromethylthiobenzoylamino)-2H-1,4-benzodiazepin-2-one | C1(=CC=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)NC(C2=CC(=CC=C2)C(F)(F)F)=S | C23H16F3N3OS
